US06043248
The Grignard reaction of 4-methyl-2-pyridinecarboxaldehyde (1.21 g, 10.0 mmol) and cyclopropylmagnesium bromide (24 ml, 15.0 mmol, 1.5 equiv., 1.6 ml/mmol) provided 1.42 g (87%) of 2-(1-hydroxy-1-cyclopropylmethyl)-4-methyl-pyridine. TLC (silica gel GF): Rf =0.21 acetone-methylene chloride (1:6). 1H NMR (CDCl3,TMS): δ 8.47 (d, 1H, J=5.08 Hz), 7.30 (s, 1H), 7.12 (d, 1H, J=5.14 Hz), 4.70 (brs, 1H), 4.16 (d, 1H, J=7.92 Hz), 2.47 (s, 3H), 1.26-1.12 (m, 1H), 0.74-0.57 (m, 4H). Mass Spectrum: M/Z (relative intensity %): 163 (34), 162 (51), 146 (51), 135 (70), 122 (100), 107 (57), 92 (98).

reactant | 4-methyl-2-pyridinecarboxaldehyde | 10.0 mmol, 1.21 g | CC1=CC(=NC=C1)C=O | C7H7NO
reactant | cyclopropylmagnesium bromide | 15.0 mmol, 24 ml, 1.5 equiv. | C1(CC1)[Mg]Br
product | 2-(1-hydroxy-1-cyclopropylmethyl)-4-methyl-pyridine | 1.42 g, 87% | OC(C1CC1)C1=NC=CC(=C1)C | C10H13NO
